US08017792B2
Synthesis of 1-bromo-3-(4-ethoxybenzyl)benzene
Then, Et3SiH (4.09 mL, 0.0256 mol) and BF3.Et2O (1.47 mL, 0.0116 mol) were added sequentially to a chloroform (22 mL) solution of (3-bromophenyl)(4-ethoxyphenyl)methanol (3.92 g, 0.0128 mol) at −60° C. After stirred for one hour, the reaction solution was warmed to room temperature. After the reaction mixture was added with a saturated sodium carbonate aqueous solution and extracted with chloroform, the organic layer was washed with brine and dried with anhydrous magnesium sulfate. After the desiccant was filtered off, the residue obtained by evaporating the solvent under reduced pressure was purified by silica gel column chromatography (hexane:ethyl acetate=50:1) to obtain a colorless oily title compound (2.84 g, 76%).

reactant | Et3SiH | 0.0256 mol, 4.09 mL | [SiH](CC)(CC)CC | C6H16Si
reactant | BF3.Et2O | 0.0116 mol, 1.47 mL | B(F)(F)F.CCOCC
reactant | (3-bromophenyl)(4-ethoxyphenyl)methanol | 0.0128 mol, 3.92 g | BrC=1C=C(C=CC1)C(O)C1=CC=C(C=C1)OCC | C15H15BrO2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | chloroform | 22 mL | C(Cl)(Cl)Cl | CHCl3
product | 1-bromo-3-(4-ethoxybenzyl)benzene | 2.84 g, 76% | BrC1=CC(=CC=C1)CC1=CC=C(C=C1)OCC | C15H15BrO
